US04654363
Step E: Preparation of Ethyl 3-(4,7-dichloro-2-methyl-8-oxo-5,6,7,8-tetrahydronaphthalen-1-yl)propanoate
A solution of ethyl 3-(4-chloro-2-methyl-8-oxo-5,6,7,8-tetrahydronaphthalen-1-yl)propanoate (5.70 g, 20.3 mmoles) in CH2Cl2 (20 ml) was saturated with dry gaseous HCl and sulfuryl chloride (16.4 ml, 27.5 g, 203 mmoles) was added dropwise and stirred at room temperature for 2 hours. The solvent and excess sulfuryl chloride were evaporated in vacuo then chased with dry toluene two times to leave 6.40 g of title compound as a gum. Exact mass calculated for C16H17O3Cl (parent-HCl): 292.0866; Found: 292.0869

reactant | ethyl 3-(4-chloro-2-methyl-8-oxo-5,6,7,8-tetrahydronaphthalen-1-yl)propanoate | 20.3 mmoles, 5.70 g | ClC1=CC(=C(C=2C(CCCC12)=O)CCC(=O)OCC)C | C16H19ClO3
reactant | HCl | Cl | ClH
reactant | sulfuryl chloride | 203 mmoles, 16.4 ml, 27.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(4,7-dichloro-2-methyl-8-oxo-5,6,7,8-tetrahydronaphthalen-1-yl)propanoate | 6.40 g | ClC1=CC(=C(C=2C(C(CCC12)Cl)=O)CCC(=O)OCC)C | C16H18Cl2O3
